US07781478B2
Preparation of 1-[5-methoxy-1-(4-methoxyphenyl)-1-H-indol-3-yl]-ethanone (Compound 42)
5-Methoxy-1-(4-methoxyphenyl)-1-H-indole (50 mg, 0.2 mmol), prepared by the method of example 1C, is dissolved in 1 mL of CH2Cl2 at 0° C. Et2AlCl (300 μL, 1M in hexanes, 0.3 mmol) is then added. After stirring at 0° C. for 30 min, a solution of acetyl chloride (22 μL, 0.3 mmol) in 1 mL of CH2Cl2 is added dropwise. This is stirred at 0° C. for a further 90 min. The reaction mixture is quenched with H2O and is extracted with CH2Cl2 and concentrated in vacuo. Purification by column chromatography on silica gel EtOAc/CH2Cl2 (5/95) yields the title compound as a white solid (42 mg, 71%).

reactant | 5-Methoxy-1-(4-methoxyphenyl)-1-H-indole | 0.2 mmol, 50 mg | COC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)OC | C16H15NO2
reactant | Et2AlCl | 0.3 mmol, 1M, 300 μL | [Al](CC)(CC)Cl
reactant | acetyl chloride | 0.3 mmol, 22 μL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-[5-methoxy-1-(4-methoxyphenyl)-1-H-indol-3-yl]-ethanone | 42 mg, 71% | COC=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)OC)C(C)=O | C18H17NO3
